US06720338B2
methyl 4-(7,9-dioxo-8-azaspiro(4.5)dec-8-yl)benzoate
The desired product was prepared by substituting methyl 4-aminobenzoate and 3,3-tetramethyleneglutaric anhydride for ethyl 4-aminobenzoate and 3,3-dimethylglutaric anhydride, respectively, in Example 119A. MS (DCI) m/e 302 (M+H)+.

reactant | 3,3-tetramethyleneglutaric anhydride | C1CCC2(C1)CC(=O)OC(=O)C2 | C9H12O3
reactant | ethyl 4-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | 3,3-dimethylglutaric anhydride | CC1(CC(=O)OC(C1)=O)C | C7H10O3
product | methyl 4-(7,9-dioxo-8-azaspiro(4.5)dec-8-yl)benzoate | O=C1CC2(CCCC2)CC(N1C1=CC=C(C(=O)OC)C=C1)=O | C17H19NO4
